US07585880B2
ethyl 3-(2,6-difluoro-4-methoxyphenyl)propanoate
Ethyl(2E)-3-(2,6-difluoro-4-methoxyphenyl)acrylate (1.1 g, 4.54 mmol) was dissolved in a mixed solvent of tetrahydrofuran (30 mL) and ethanol (30 mL), 10% palladium-carbon (0.30 g) was added and the mixture was stirred under a hydrogen atmosphere at room temperature for 5 hr. The catalyst was filtered off, and the obtained filtrate was concentrated to give the title compound (1.17 g, yield 100%) as a colorless oil.

reactant | Ethyl(2E)-3-(2,6-difluoro-4-methoxyphenyl)acrylate | 4.54 mmol, 1.1 g | FC1=C(C(=CC(=C1)OC)F)/C=C/C(=O)OCC | C12H12F2O3
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | ethanol | 30 mL | C(C)O | C2H6O
catalyst | palladium-carbon | 0.30 g | [C].[Pd]
product | ethyl 3-(2,6-difluoro-4-methoxyphenyl)propanoate | 1.17 g, yield 100% | FC1=C(C(=CC(=C1)OC)F)CCC(=O)OCC | C12H14F2O3
